US08669266B2
(i) 3-tert-Butoxycarbonylamino-azetidine-1-carboxylic acid butyl ester
To a solution of 686 mg of Azetidin-3-yl-carbamic acid tert-butyl ester in 10 ml of DCM, 403 mg of triethylamine was added and the mixture was cooled to 0° C. Then, 598 mg of butyl chloroformate was slowly added. After the addition was completed the reaction mixture was allowed to warm to RT and to stir for 2 h. Then, 200 ml of DCM was added and the organic phase was washed two times with 0.1M aqueous hydrochloric acid and the with saturated aqueous sodium hydrogen carbonate solution. The organic phase was dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was purified by chromatography on silica gel eluting with a gradient of n-heptane/ethyl acetate. The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 910 mg.

reactant | Azetidin-3-yl-carbamic acid tert-butyl ester | 686 mg | C(C)(C)(C)OC(NC1CNC1)=O | C8H16N2O2
reactant | triethylamine | 403 mg | C(C)N(CC)CC | C6H15N
reactant | butyl chloroformate | 598 mg | ClC(=O)OCCCC | C5H9ClO2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | 3-tert-Butoxycarbonylamino-azetidine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CC(C1)NC(=O)OC(C)(C)C | C13H24N2O4
